US04060533
A mixture of 30.0 grams (0.093 mole) of 3-phenyl-5-(β-hydroxyphenethyl)-N-methyl-isoxazole-4-carboxamide, 600 milliliters of ethanol and 3.0 grams of 10 percent Palladium on carbon in hydrogenated at 50 p.s.i. until 1 equivalent of hydrogen is absorbed (about 5 hours). The mixture is filtered and the filtrate evaporated in vacuo. The residue is then crystallized from methylene chloride petroleum ether to give 2-(α-aminobenzylidene)-5-hydroxy-N-methyl-3-oxo-5-phenylvaleramide, m.p. 72° C. - 76° C.

reactant | 3-phenyl-5-(β-hydroxyphenethyl)-N-methyl-isoxazole-4-carboxamide | 0.093 mole, 30.0 grams | C1(=CC=CC=C1)C1=NOC(=C1C(=O)NC)CC(C1=CC=CC=C1)O | C19H18N2O3
reactant | hydrogen | 1 equivalent | [H][H] | H2
catalyst | Palladium on carbon | 3.0 grams | [Pd] | Pd
solvent | ethanol | 600 milliliters | C(C)O | C2H6O
product | 2-(α-aminobenzylidene)-5-hydroxy-N-methyl-3-oxo-5-phenylvaleramide | NC(C1=CC=CC=C1)=C(C(=O)NC)C(CC(C1=CC=CC=C1)O)=O | C19H20N2O3
